US08703758B2
G) tert-butyl [(1S)-2-({trans-4-[6-(2-cyclopropylethoxy)-2H-indazol-2-yl]cyclohexyl}oxy)-1-methylethyl]carbamate
A solution of 4-(2-cyclopropylethoxy)-2-nitrobenzaldehyde (0.79 g), tert-butyl {(1S)-2-[(trans-4-azidocyclohexyl)oxy]-1-methylethyl}carbamate (1.0 g), triphenylphosphine (3.08 g) and triethyl phosphite (3.08 g) in toluene (10 mL) was refluxed for 3 hr. The reaction mixture was allowed to cool, and concentrated under reduced pressure. To the obtained residue was added triethyl phosphite (4.0 g), and the mixture was stirred at 160° C. for 4 hr. The reaction mixture was allowed to cool, and purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (1.2 g).

reactant | 4-(2-cyclopropylethoxy)-2-nitrobenzaldehyde | 0.79 g | C1(CC1)CCOC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C12H13NO4
reactant | tert-butyl {(1S)-2-[(trans-4-azidocyclohexyl)oxy]-1-methylethyl}carbamate | 1.0 g | N(=[N+]=[N-])[C@@H]1CC[C@H](CC1)OC[C@H](C)NC(OC(C)(C)C)=O | C14H26N4O3
reactant | triphenylphosphine | 3.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethyl phosphite | 3.08 g | P(OCC)(OCC)OCC | C6H15O3P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [(1S)-2-({trans-4-[6-(2-cyclopropylethoxy)-2H-indazol-2-yl]cyclohexyl}oxy)-1-methylethyl]carbamate | 1.2 g | C1(CC1)CCOC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)OC[C@H](C)NC(OC(C)(C)C)=O | C26H39N3O4
